US09119868B2
Step 2: 6-(N-(4-amino-3,5-difluorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
A solution of 5-cyclopropyl-6-(N-(3,5-difluoro-4-nitrophenyl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (0.65 g, 1.16 mmol) and tin (II) chloride (0.66 g, 3.49 mmol) in EtOAc (10 mL) and ethanol (10 mL) was heated under reflux for 2 h. The reaction mixture was diluted with EtOAc and water and the suspension was filtered through celite. The organic layer was dried (Na2SO4), filtered, evaporated and purified by silica gel chromatography (0-50% EtOAc/hexanes) to afford the title compound (0.34 g, 55%) as a white solid. LCMS (m/z, ES+)=530.2 (M+H+).

reactant | 5-cyclopropyl-6-(N-(3,5-difluoro-4-nitrophenyl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 1.16 mmol, 0.65 g | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=CC(=C(C(=C1)F)[N+](=O)[O-])F | C26H20F3N3O6S
reactant | tin (II) chloride | 3.49 mmol, 0.66 g | [Sn](Cl)Cl
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 6-(N-(4-amino-3,5-difluorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.34 g, 55% | NC1=C(C=C(C=C1F)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)F | C26H22F3N3O4S
